US07335771B2
Dimethyl 1,4-cyclohexanedione-2,5-dicarboxylate (4.56 gm; 20 mmol) and methanol (100 ml) were heated to boiling, then 4-bromoaniline (6.88 gm; 40 mmol) was added followed by conc. hydrochloric acid (200 μl). The mixture was refluxed for 5 hours under a nitrogen atmosphere. On cooling a cream solid precipitated out which was collected by filtration, washed with methanol and dried under vacuum to give 10.18 gm (95%) of dimethyl 2,5-bis{(4-bromophenyl)amino}cyclohexa-1,4-diene-1,4-dicaboxylate.

reactant | Dimethyl 1,4-cyclohexanedione-2,5-dicarboxylate | 20 mmol, 4.56 gm | COC(=O)C1CC(=O)C(CC1=O)C(=O)OC | C10H12O6
reactant | 4-bromoaniline | 40 mmol, 6.88 gm | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | hydrochloric acid | 200 μl | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | dimethyl 2,5-bis{(4-bromophenyl)amino}cyclohexa-1,4-diene-1,4-dicaboxylate | 10.18 gm, 95% | BrC1=CC=C(C=C1)NC1=C(CC(=C(C1)C(=O)OC)NC1=CC=C(C=C1)Br)C(=O)OC | C22H20Br2N2O4
